Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pyuria, rigors
 
Major Surgical or Invasive Procedure:
Bilateral percutaneous nephrostomy tube exchange

 
History of Present Illness:
Patient is a ___ male well known to the urology service with
history of colovesical fistula s/p repair, distal ureteral
obstruction secondary to tortuous ureters who is well known to
the urology service. He essentially undergoes planned PCNU/PCN
changes with ___ and underwent scheduled change today of both
nephrostomies. His left, once reset in place, produced
significant pyuria and the patient experienced rigors. No 
nausea,
vomiting, fevers, chills or other concerning signs. Urology
consulted for symptoms.
 
Past Medical History:
PAST MEDICAL HISTORY: GERD, chronic urinary retention (? BPH
versus prostatitis, longstanding indwelling catheter since at
least ___ now removed, paranoid schizophrenia

PAST SURGICAL HISTORY: bilateral nephrostomy tubes (___),
colovesical fistula repair
 
Social History:
___
Family History:
Denies any family history of colon cancer, inflammatory bowel 
disease, or other cancer.

 
Physical Exam:
___ NAD, Tangential thought processes at times
Abdomen is soft nt nd
Bilat nephrostomy tubes secure and in place, clear urine bilat
Extremities are WWP
 
Pertinent Results:
___ 12:50PM   ___
___ 12:50PM   PLT COUNT-339
___ 12:50PM   WBC-9.6 RBC-3.87* HGB-10.3* HCT-33.8* MCV-87 
MCH-26.6* MCHC-30.5* RDW-14.7
___ 12:50PM   estGFR-Using this
___ 12:50PM   CREAT-3.0*#
___ 04:30PM URINE  RBC->182* WBC->182* BACTERIA-MANY 
YEAST-NONE EPI-0
___ 04:30PM URINE  RBC->182* WBC->182* BACTERIA-MANY 
YEAST-NONE EPI-0
___ 04:30PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 04:30PM URINE  COLOR-Yellow APPEAR-Cloudy SP ___

___ 07:34AM BLOOD WBC-5.6 RBC-3.60* Hgb-9.6* Hct-31.4* 
MCV-87 MCH-26.6* MCHC-30.6* RDW-14.7 Plt ___
___ 07:34AM BLOOD Glucose-95 UreaN-36* Creat-2.6* Na-142 
K-4.4 Cl-107 HCO3-26 AnGap-13
 
Brief Hospital Course:
Patient received bilateral nephrostomy tube replacement (L PCNU 
and R PCN ) by ___ on ___ ___. He was noted to have 
significant pyuria and rigors in PACU. Decision was made to 
admit to urology.

He was given IV antibiotics, IV fluids --- he was watched 
overnight as observation. Creatinine improved, WBC did not 
elevate. Subsequently, his diet was advanced which he tolerated. 
He did not develop fevers or further rigors. He was later 
discharged home uneventfully.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate Dose is Unknown  PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Pantoprazole 40 mg PO Q24H 
4. Tamsulosin 0.4 mg PO HS 

 
Discharge Medications:
1. Pantoprazole 40 mg PO Q24H 
2. Tamsulosin 0.4 mg PO HS 
3. Acetaminophen ___ mg PO Q6H:PRN pain, fever>100 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bilateral ureteral obstruction, Nephrostomy tube replacements 
(blaterally), L PCNU and R PCN 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
YOU HAVE HAD NEPHROSTOMY TUBES SINCE ___. PLEASE MANAGE THEM IN 
A SIMILAR FASHION.

NEPHROSTOMY TUBE INSTRUCTIONS FOR CARE.

Please leave PCN tube to external gravity drainage and flush 
forward with 10 mL normal saline solution twice daily to 
maintain tube patency. Please monitor and record urine output 
from the PCN tube.

Catheter flushing: If there are excessive blood clots or debris 
or thick urine within the connecting tubing, this can also be 
flushed as needed to clear from the stopcock into the drainage 
bag.

Change dressing daily. Gently cleanse around the skin entry site 
of the catheter with povidone iodine or dilute hydrogen 
peroxide. Dry and apply sterile gauze dressing.

Catheter security: a) Every shift, check to be sure the 
catheter, the connecting tubing and the drainage bag are 
securely attached to the patient and are not kinked. b) If the 
catheter appears to be pulling, please notify Interventional 
Radiology. c) If the catheter pulls out, please notify 
Interventional Radiology with in 8 hours. SAVE THE CATHETER for 
us to inspect. Do not throw it away.

Call Angio for ANY catheter related questions or problems. 
___ or Fellow/Resident (pager# ___

Catheter is attached to drainage bag for external drainage; 
please measure and record the net output every shift (or more 
often if the urine output is high).
 
Followup Instructions:
___